US04225723
(a) 2,4'-dichlorobenzhydrol
To 12.7 g. (0.52 moles) of magnesium turnings in 200 ml. of anhydrous ether is added 10.0 g. (0.052 moles) of p-bromochlorobenzene, and the mixture is warmed to reflux. When the Grignard reaction begins, the heat is removed and 80.0 g. (0.47 moles) of additional p-bromochlorobenzene in 80 ml. of ether is added dropwise as the refluxing continues. When the addition is completed, the reaction is heated at reflux for 2 hours, cooled, and 73.4 g. (0.52 moles) of o-chlorobenzaldehyde are slowly added. The reaction is refluxed for 2 hours, cooled and poured into iced water. The resulting mixture is made acidic with hydrochloric acid, and the organic phase is separated. The aqueous layer is extracted with ether, and the extract is added to the organic phase. This solution is washed with water, dried over anhydrous magnesium sulfate and concentrated to give an oily solid. The material is crystallized from petroleum ether to give 109.4 g. (83%) of the product, mp 68°-70°.

reactant | magnesium | 0.52 moles | [Mg] | Mg
reactant | p-bromochlorobenzene | 0.052 moles | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | p-bromochlorobenzene | 0.47 moles | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | o-chlorobenzaldehyde | 0.52 moles | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2,4'-dichlorobenzhydrol | ClC1=C(C(C2=CC=C(C=C2)Cl)O)C=CC=C1 | C13H10Cl2O
